US08440666B2
2-[(3-Chloropyridazin-4-yl)methyl]-1H-isoindole-1,3(2H)-dione
2-[(3-Oxo-2,3-dihydropyridazin-4-yl)methyl]-1H-isoindole-1,3(2H)-dione (1.1 g, 4.27 mmol) was mixed with phosphoryl chloride (10 mL) and heated to reflux for 1 hour. After completion of the reaction, phosphoryl chloride was removed under reduced pressure. The resulting residue was diluted with chloroform and water. The organic layer was separated, dried over anhydrous magnesium sulfate, and the solvent was removed by vacuum distillation. The resulting residue was purified by silica gel column chromatography (hexane/ethyl acetate=9/1) to give the desired product (89% yield).

reactant | 2-[(3-Oxo-2,3-dihydropyridazin-4-yl)methyl]-1H-isoindole-1,3(2H)-dione | 4.27 mmol, 1.1 g | O=C1NN=CC=C1CN1C(C2=CC=CC=C2C1=O)=O | C13H9N3O3
reactant | phosphoryl chloride | 10 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-[(3-Chloropyridazin-4-yl)methyl]-1H-isoindole-1,3(2H)-dione | 89% yield | ClC=1N=NC=CC1CN1C(C2=CC=CC=C2C1=O)=O | C13H8ClN3O2
